US06093732
N-(4-Chlorobenzyl)-4-hydroxy-8-methoxy-6-(3-methoxy-1-propynyl)-3-quinolinecarboxamide
N-(4-chlorobenzyl)-4-hydroxy-6-iodo-8-methoxy-3-quinolinecarboxamide (469 mg) from Example No. 117, copper (I) iodide (57 mg), and bis(triphenylphosphine)-palladium (II) chloride (35 mg) are suspended in diethylamine (15 mL). Methyl propargyl ether (101 μL) is added and the mixture is allowed to stir at rt for 64 h. The reaction mixture is poured into water (50 mL) and extracted with ethyl acetate (2×50 mL). The organic layer is washed with saturated aqueous ammonium chloride (3×10 mL) and brine (10 mL). The aqueous layer is back-extracted with ethyl acetate (20 mL). The combined organic layers are dried (MgSO4) and concentrated. The crude product is purified by column chromatography (heptane/2-propanol, 12/1; 10/1; 5/1) to afford 188 mg (46%) of the title compound as a white solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-6-iodo-8-methoxy-3-quinolinecarboxamide | 469 mg | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)I)OC)C=C1 | C18H14ClIN2O3
reactant | Methyl propargyl ether | 101 μL | C(C#C)OC | C4H6O
reactant | water | 50 mL | O | H2O
solvent | diethylamine | 15 mL | C(C)NCC | C4H11N
catalyst | copper (I) iodide | 57 mg | [Cu]I
catalyst | bis(triphenylphosphine)-palladium (II) chloride | 35 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
product | N-(4-Chlorobenzyl)-4-hydroxy-8-methoxy-6-(3-methoxy-1-propynyl)-3-quinolinecarboxamide | 188 mg, 46% | ClC1=CC=C(CNC(=O)C=2C=NC3=C(C=C(C=C3C2O)C#CCOC)OC)C=C1 | C22H19ClN2O4
